US07652032B2
2-amino-3-pyridinyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
1.45 g of palladium-on-charcoal at 10% is added to a solution of 14.5 g (35.4 mM) of 2-nitro-3-pyridinyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside in 290 ml of THF. The mixture is stirred under a hydrogen atmosphere at ambient temperature for 15 hours and then filtered. The filtrate is concentrated under reduced pressure. The expected product is obtained in the form of a beige solid with a yield of 98%.

reactant | 2-nitro-3-pyridinyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 35.4 mM, 14.5 g | C(C)(=O)O[C@H]1[C@H](OC=2C(=NC=CC2)[N+](=O)[O-])SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C16H18N2O9S
solvent | THF | 290 ml | C1CCOC1 | C4H8O
catalyst | palladium-on-charcoal | 1.45 g | [Pd] | Pd
product | 2-amino-3-pyridinyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 98% | C(C)(=O)O[C@H]1[C@H](OC=2C(=NC=CC2)N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C16H20N2O7S
